US04012392
10-Ethyl-6-(p-methoxybenzyl)-7-methyl-7-azaspiro [4.5] decan-10-ol hydrochloride
In a manner similar to the method described in example 47, 4.5 g of 6-(p-methoxybenzyl)-7-methyl-7-azaspiro [4.5] decan-10-one (obtained from 8 g of the picrate described in example 36) is reacted with acetylene lithium, prepared by dissolution of 1.1 g of lithium in 200 ml of liquid ammonia saturated with acetylene. The crude reaction product, 10-ethinyl-6-(p-methoxybenzyl)-7-methyl-7-azaspiro [4.5] decan-10-ol, is submitted to catalytic hydrogenation in the usual manner, giving the above-mentioned compound. The hydrochloride melts at 217°-220° C with decomposition. Yield 76%.

reactant | acetylene lithium | [Li].C#C
reactant | lithium | 1.1 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | acetylene | C#C | C2H2
reactant | 10-ethinyl-6-(p-methoxybenzyl)-7-methyl-7-azaspiro [4.5] decan-10-ol | C(#C)C1(CCN(C(C12CCCC2)CC2=CC=C(C=C2)OC)C)O | C20H27NO2
reactant | hydrochloride | Cl | ClH
product | 10-Ethyl-6-(p-methoxybenzyl)-7-methyl-7-azaspiro [4.5] decan-10-ol hydrochloride | Cl.C(C)C1(CCN(C(C12CCCC2)CC2=CC=C(C=C2)OC)C)O | InChI=1S/C20H31NO2.ClH/c1-4-20(22)13-14-21(2)18(19(20)11-5-6-12-19)15-16-7-9-17(23-3)10-8-16;/h7-10,18,22H,4-6,11-15H2,1-3H3;1H
